US06677368B2
To a solution of 4-(2-fluoro-phenyl)-1,3-dihydro-indol-2-one (56.8 mg, 0.25 mmol) and 2-formyl-5-methyl-1H-pyrrole-3-carboxylic acid (2-[1,2,3]triazol-1-yl-ethyl)-amide (61.8 mg, 0.26 mmol) in ethanol (2 mL) was added piperidine (3 drops). The reaction mixture was stirred at room temperature for three days. A yellow solid product was precipitated out, filtered, washed by ethanol for three times, and dried under high vacuum to provide pure product 2-[4-(2-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid (2-[1,2,3]triazol-1-yl-ethyl)-amide as a yellow solid (74.1 mg, 65%).

reactant | 4-(2-fluoro-phenyl)-1,3-dihydro-indol-2-one | 0.25 mmol, 56.8 mg | FC1=C(C=CC=C1)C1=C2CC(NC2=CC=C1)=O | C14H10FNO
reactant | 2-formyl-5-methyl-1H-pyrrole-3-carboxylic acid (2-[1,2,3]triazol-1-yl-ethyl)-amide | 0.26 mmol, 61.8 mg | N1(N=NC=C1)CCNC(=O)C1=C(NC(=C1)C)C=O | C11H13N5O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 2-[4-(2-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid (2-[1,2,3]triazol-1-yl-ethyl)-amide | 74.1 mg, 65% | N1(N=NC=C1)CCNC(=O)C1=C(NC(=C1)C)C=C1C(NC2=CC=CC(=C12)C1=C(C=CC=C1)F)=O | C25H21FN6O2
